US07060844B2
To a stirred solution of 5-methoxyoxindole (197 mg, 1.21 mmol) in anhydrous THF (10 ml) under nitrogen was added 1.0M LiHMDS/THF solution (2.8 ml, 2.8 mmol). The mixture was stirred at room temperature for 10 minutes, and 5-(2-morpholin-4-yl-ethoxy)-3H-isobenzofuran-1-one (200 mg, 0.76 mmol) was added. After stirred at room temperature for 3.0 hours, the mixture was poured into a mixture of THF (5 ml) and 2M HCl aqueous solution (10 ml), and heated at 60° C. for 40 minutes. The mixture was cooled to room temperature, basified with 5M NaOH aqueous solution, and then poured into water (150 ml). The resulting solid was separated, rinsed with water, and dried to give 5-methoxy-3-[5-(2-morpholin-4-yl-ethoxy)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a yellow solid (275 mg, 89%).

reactant | 5-methoxyoxindole | 1.21 mmol, 197 mg | COC=1C=C2CC(NC2=CC1)=O | C9H9NO2
reactant | LiHMDS THF | 2.8 mmol, 1.0M, 2.8 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C.C1CCOC1
reactant | 5-(2-morpholin-4-yl-ethoxy)-3H-isobenzofuran-1-one | 0.76 mmol, 200 mg | N1(CCOCC1)CCOC=1C=C2COC(C2=CC1)=O | C14H17NO4
reactant | HCl | 2M, 10 ml | Cl | ClH
reactant | NaOH | 5M | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 5-methoxy-3-[5-(2-morpholin-4-yl-ethoxy)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 275 mg, 89% | COC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=CC(=CC=C12)OCCN1CCOCC1 | C23H24N2O5
